US07576211B2
Step C: Preparation of 1-isobutyl-1H-thieno[2,3-d][1,3]oxazine-2,4-dione
A mixture of methyl 2-(isobutylamino)thiophene-3-carboxylate (2.1 g, 9.9 mmol), sodium hydroxide (0.39 g, 9.8 mmol), water (20 mL) and methanol (10 mL) was heated at reflux for 2 h and cooled to room temperature. Methanol was removed under reduced pressure; the residue was diluted with dichloromethane (10 mL) and cooled to 0° C. Triphosgene (5.85 g, 19.7 mmol) was added portionwise; the reaction mixture was stirred for 18 h and diluted with dichloromethane. The organic layer was separated, dried over anhydrous sodium sulfate and concentrated to provide the crude product as a light brown solid (2.0 g). This material was used in the next step (Step D) without any purification. 1H NMR (400 MHz, CDCl3): δ 7.25 (d, 1H), 6.95 (d, 1H), 3.79 (d, 2H), 2.40-2.36 (m, 1H), 1.02 (d, 6H).

reactant | methyl 2-(isobutylamino)thiophene-3-carboxylate | 9.9 mmol, 2.1 g | C(C(C)C)NC=1SC=CC1C(=O)OC | C10H15NO2S
reactant | sodium hydroxide | 9.8 mmol, 0.39 g | [OH-].[Na+]
reactant | water | 20 mL | O | H2O
reactant | Triphosgene | 19.7 mmol, 5.85 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 10 mL | CO | CH4O
product | 1-isobutyl-1H-thieno[2,3-d][1,3]oxazine-2,4-dione | 2.0 g | C(C(C)C)N1C(OC(C2=C1SC=C2)=O)=O | C10H11NO3S
